US08084620B2
Step 2 A solution of tert-butyl 5-bromothiazol-2-ylcarbamate (3 g, 10.7 mmol), isopropanol (6.40 g, 107.4 mmol) and triphenylphosphine (5.63 g, 21.5 mmol) in THF (30 mL) was treated with diethyl azodicarboxylate (3.74 g, 21.5 mmol) dropwise at 0° C. and was stirred overnight while warming slowly to rt. The mixture was concentrated and the residue was dissolved in DCM (20 mL), filtered to remove undissolved solid and concentrated. The residue was purified by column chromatography (eluting with hexane) to give tert-butyl 5-bromothiazol-2-yl(isopropyl)carbamate as a light yellow oil (3.10 g, 90%). 1H NMR (400 MHz, chloroform-d) δ 7.34 (s, 1H) 5.29 (m, 1H) 1.59 (s, 9H) 1.45 (d, 6.8 Hz, 6H). Mass spectrum m/z 265, 267 (M+H—C4H9)+.

reactant | tert-butyl 5-bromothiazol-2-ylcarbamate | 10.7 mmol, 3 g | BrC1=CN=C(S1)NC(OC(C)(C)C)=O | C8H11BrN2O2S
reactant | isopropanol | 107.4 mmol, 6.40 g | C(C)(C)O | C3H8O
reactant | triphenylphosphine | 21.5 mmol, 5.63 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 21.5 mmol, 3.74 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-bromothiazol-2-yl(isopropyl)carbamate | 3.10 g, 90% | BrC1=CN=C(S1)N(C(OC(C)(C)C)=O)C(C)C | C11H17BrN2O2S
